US07498346B2
Following General Procedure A, a solution of 4-ethoxyaniline (0.48 g, 3.5 mmol) and (R)-3-(4-oxo-piperidin-1-yl)butyronitrile (0.49 g, 3.0 mmol) in CH2Cl2 (10 mL), was treated with glacial AcOH (3 drops) and NaBH(OAc)3 (0.93 g, 4.4 mmol), stirring for 16 h at room temperature. Saturated aqueous NaHCO3 solution (15 mL) and 1N NaOH (2 mL) was added and the phases were separated and the aqueous extracted with CH2Cl2 (2×15 mL). The combined organic extracts were dried (Na2SO4), filtered and concentrated under reduced pressure. The crude material was then purified by flash column chromatography on silica gel (1:1 EtOAc/CH2Cl2) to afford (R)-3-[4-(4-ethoxy-phenylamino)-piperidin-1-yl]-butyronitrile as a pale brown solid (90%). 1H NMR (CDCl3) δ 1.20 (d, 3H, J=6.6 Hz), 1.37 (t, 2H, J=7.2 Hz), 1.39 (m, 2H), 2.05 (br d, 2H), 2.36 (m, 3H), 2.47 (m, 1H), 2.81 (m, 2H), 3.07 (sex, 1H, J=7.2 Hz), 3.28 (m, 2H), 3.96 (q, 2H, J=7.5 Hz), 6.55 (d, 2H, J=9.0 Hz), 6.76 (d, 2H, J=9.0 Hz).

reactant | 4-ethoxyaniline | 3.5 mmol, 0.48 g | C(C)OC1=CC=C(N)C=C1 | C8H11NO
reactant | (R)-3-(4-oxo-piperidin-1-yl)butyronitrile | 3.0 mmol, 0.49 g | O=C1CCN(CC1)[C@@H](CC#N)C | C9H14N2O
reactant | NaBH(OAc)3 | 4.4 mmol, 0.93 g | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
reactant | NaHCO3 | 15 mL | C(=O)(O)[O-].[Na+]
reactant | NaOH | 1N, 2 mL | [OH-].[Na+]
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
catalyst | AcOH | 3 drops | CC(=O)O | C2H4O2
product | (R)-3-[4-(4-ethoxy-phenylamino)-piperidin-1-yl]-butyronitrile | 90% | C(C)OC1=CC=C(C=C1)NC1CCN(CC1)[C@@H](CC#N)C | C17H25N3O
